Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Flexeril / Benadryl / Reglan
 
Attending: ___
 
Chief Complaint:
bilateral leg stiffness, inability to ambulate
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yr old with a complex PMH of recurrent belching and dysphagia 
f/u by GIT, ongoing mouth pain and numbness with associated 
unilateral leg numbness who present to  the ED with inability to 
move her legs b/l secondary to rigidity.  
She was in her usual state of health till this ___ 
afternoon at 3 pm after she took a shower she suddenly was no 
longer able to walk. She reports she did not fall because she 
caught her self. She reports that he leg are stiff and rigid 
with worsening numbness from the knee below. She had been 
carried by her husband and father around the house. She 
contacted  her neurologist who
recommended evaluation in the ED. Sge dnies involvement of her 
face or UE, no loss of bowl or bladder control or sensation in 
her thighs or perineal area. Denies recent illness or trauma.  
Per chart review: 
She was recently referred to out ___ clinic after 
her ENT specialist suggested  starting her on Throazine but 
needed neurology assessment. 
The patient has a several complex symptoms.  In terms of her GI 
symptoms, she is status post Nissen procedure and was seen by GI 
who started her on baclofen.  Following that, she noticed an 
episode of severe gagging and feeling like food is stuck in her 
throat.  She then had an ENT evaluation, which included a 
laryngoscopy and CT of the neck, which were normal, per the
patient.  She had a CT scan of her chest, which showed some 
secretion.  They tried PFTs with her, but she could not complete 
it because of chest pressure.  She had an esophageal manometry, 
which was normal.  She is scheduled for a video swallow by GI.  

During her neurology  visit, she complained of some air 
swallowing, constant belching difficult to control. She also had 
a recent episode where she lost control of her legs and that 
improved, but she says that her left leg is still numb from the 
knee down and this tends to fluctuate.  She has no difficulty 
controlling bladder or bowel.  

She also describes  burning pain in her mouth, which actually 
preceded her leg symptoms.  She is constantly taking local 
anesthetic to stop the pain.  

She complains of some chest pain, wondering about muscle spasm. 
She does not have headaches.  Currently, no nausea, no visual 
changes, no weakness. Her exam was notable for some sensory 
deficit sin her left leg but otherwise unremarkable. She was 
started on gabapentin to help with her chronic  numbness and 
pain with a plan to obtain a brain MRI to r/o MS. 
 
___ Medical History:
Asthma, AFib, migraines, GERD, pneumonia, heart murmur, joint 
pain, chickenpox.
 
Social History:
___
Family History:
No colon cancer, IBD, or celiac disease
 
Physical Exam:
===ADMISSION EXAM===
Vitals: T: 98.4  P: 79 R: 16  BP:125/82   SaO2: 100%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits.
Pulmonary: CTABL. No R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G 
Abdomen: soft, NT/ND, +BS, no masses or organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty, seems indifferent to her to her immobility. 
Attentive, able to name ___ backward without difficulty. 
Language is fluent with intact repetition and comprehension. 
Normal prosody. There were no paraphasic errors. Pt was able to 
name both high and low frequency objects.  Able to read without 
difficulty. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Pt was able to register 3 
objects and recall ___ at 5 minutes. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout in her UE such as tremor, 
noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO 
L  5    ___   ___  
R  5    ___   ___  
___: B/l ___ stiffening, feet are  extended at the ankle and toes 
are point out and forward. Tone is increased severely that the 
examiner is unable to even left the leg or  bend the knees. No 
active movements expect for flickering of toes on command.    
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout in her UE. ___: 
decreased sensation to LT, temp, pain, vibration and 
proprioception in her left compared to right leg/foot from below 
the knee. 
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    unable to illicit 
R  2  2    2    unable to illicit 
Plantar response mildly flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.

-Gait: Deferred. Romberg absent.

===DISCHARGE EXAM===
General exam is unchanged. 
Neurologic exam notable for normal mental status, cranial 
nerves, sensation and strength in the upper extremities. In the 
legs, she gives variable resistance to confrontational testing, 
but ___ bilaterally. Tone is normal, with interval resolution of 
stiffness. Reflexes 2+ at the knees. Sensory exam grossly 
normal. Gait remarkable for able to get out of bed with no 
assistance, narrow based, good arm swing. Able to tandem gait 
and negative Romberg.

 
Pertinent Results:
___ 07:35PM BLOOD WBC-5.3# RBC-4.19 Hgb-12.7 Hct-39.7 
MCV-95 MCH-30.3 MCHC-32.0 RDW-13.1 RDWSD-45.2 Plt ___
___ 07:35PM BLOOD Glucose-92 UreaN-20 Creat-0.9 Na-136 
K-5.7* Cl-100 HCO3-19* AnGap-23*
___ 07:35PM BLOOD ALT-28 AST-51* CK(CPK)-109 AlkPhos-55 
TotBili-0.5
___ 07:35PM BLOOD Albumin-4.6 Calcium-9.6 Phos-4.1 Mg-2.1
___ 07:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:40PM URINE Color-Straw Appear-Clear Sp ___
___ 08:40PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:40PM URINE RBC-<1 WBC-0 Bacteri-FEW Yeast-NONE Epi-8
___ 08:40PM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG

___ MRI spine
1. There are 7 cervical vertebrae with bilateral ribs at C7, 11 
rib-bearing vertebrae, T12 with transitional anatomy, 4 
lumbar-type vertebrae, and a partially sacralized L5. 2. Normal 
appearance of the spinal cord.  No abnormal contrast 
enhancement. 
3. Moderate spinal canal narrowing and moderate bilateral neural 
foraminal narrowing at C4-C5.  Small disc protrusion without 
significant spinal canal narrowing at C2-C3. 
4. Small disc protrusion without significant spinal canal 
narrowing at T9-T10. 
5. Minimal bilateral neural foraminal narrowing at L4-L5. 

___ MRI brain
1. No evidence for acute intracranial abnormalities or 
intracranial mass.  No clear evidence for demyelinating disease. 

2. Mild to moderate mucosal thickening with possible trace fluid 
in the right maxillary sinus and fluid within the left concha 
bullosa.  Please correlate clinically whether there are any 
associated sinus symptoms. 
 
Brief Hospital Course:
Ms. ___ was admitted to the hospital with bilateral lower 
extremity stiffness and inability to ambulate. Her exam was most 
consistent with a functional disorder and improved rapidly over 
2 days. She was able to ambulate with minimum assistance on the 
day of discharge and agreed that she felt safe going home. MRI 
of the brain and spine did not show causative lesions. We 
discussed her symptoms and educated her on her disorder. 
Initially, she was evaluated by ___ for rehab; however, the next 
day her symptoms had mostly resolved and was able to ambulate on 
own without assistance, with near total resolution of stiffness.

Transitional Issues
[ ] Post-discharge follow up, continued reassurance and 
education about functional disorder.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Flecainide Acetate 100 mg PO Q12H 
2. Gabapentin 300 mg PO TID 
3. Omeprazole 20 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Baclofen 20 mg PO BID 
7. ALPRAZolam 2 mg PO QID:PRN anxiety 

 
Discharge Medications:
1.  ALPRAZolam 2 mg PO QID:PRN anxiety  
2.  Baclofen 20 mg PO BID  
3.  Flecainide Acetate 100 mg PO Q12H  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Gabapentin 300 mg PO TID  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Functional dystonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with bilateral leg stiffness. 
You underwent an MRI of the brain and spine, which did not show 
injury or damage. Your exam was most consistent with functional 
dystonia, which is a dissociative condition between your brain 
and your body. This can happen in many patients and in the 
majority of cases improve with physical therapy, mind-body 
awareness techniques. You will also find that trying to distract 
yourself away from your symptoms will actually help reduce the 
severity of your symptoms. It is possible that the symptoms of 
leg weakness might come back. If the weakness is associated with 
other features especially including unilateral numbness, 
language issues, there may be an urgent or emergent condition 
that needs to be evaluated. If the symptoms are more of what you 
have experienced prior to admission, then you should call your 
neurologist and explain your symptoms. You might also find 
information regarding your disorder on ___.

It was a pleasure taking care of you! We wish you the best.

___ Care Team
 
Followup Instructions:
___